US09382236B2
3-Pyridylacetic acid (41 mg, 0.3 mmol) was dissolved in dry dichloromethane (1 mL), the solution was added with dimethylformamide (1 drop), and oxalyl chloride (0.03 mL, 0.36 mmol), and the mixture was stirred at room temperature for 1 hour. The solvent was evaporated under reduced pressure to give 3-pyridylacetyl chloride hydrochloride. By using this compound and 5-(4-aminophenyl)-1H-naphtho[1,2-b][1,4]diazepine-2,4(3H,5H)-dione (63 mg, 0.2 mmol) obtained in Example 1, (3), the title compound (6.2 mg, yield 7%) was obtained as yellow amorphous in the same manner as that of Example 1, (4).

reactant | 3-Pyridylacetic acid | 0.3 mmol, 41 mg | N1=CC(=CC=C1)CC(=O)O | C7H7NO2
reactant | oxalyl chloride | 0.36 mmol, 0.03 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
catalyst | dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
product | 3-pyridylacetyl chloride hydrochloride | Cl.N1=CC(=CC=C1)CC(=O)Cl | InChI=1S/C7H6ClNO.ClH/c8-7(10)4-6-2-1-3-9-5-6;/h1-3,5H,4H2;1H
